US07151096B2
A mixture of 3-dimethylamino-1-(2-chloro-3-pyridyl)-2-propen-1-one (810 mg, 3.86 mmol), 3-ethoxycarbonyl-phenyl-guanidine nitrite (1.07 g, 3.96 mmol), lithium hydroxide (105 mg, 4.38 mmol) in 2-butanol (20 mL) is heated to reflux overnight. The reaction mixture is cooled to room temperature, the solvent is removed and water (40 mL) is added. The solid is collected by filtration and washed with water, isopropanol and dried to give N-[3-ethoxycarbonyl-phenyl]-4-(2-chloro-3-pyridyl)-2-pyrimidineamine (1.15 g); ESI-MS (m/z): 355.1 (M++H).

reactant | 3-dimethylamino-1-(2-chloro-3-pyridyl)-2-propen-1-one | 3.86 mmol, 810 mg | CN(C=CC(=O)C=1C(=NC=CC1)Cl)C | C10H11ClN2O
reactant | 3-ethoxycarbonyl-phenyl-guanidine nitrite | 3.96 mmol, 1.07 g | N(=O)O.C(C)OC(=O)C=1C=C(C=CC1)NC(=N)N
reactant | lithium hydroxide | 4.38 mmol, 105 mg | [OH-].[Li+]
solvent | 2-butanol | 20 mL | CC(CC)O | C4H10O
product | N-[3-ethoxycarbonyl-phenyl]-4-(2-chloro-3-pyridyl)-2-pyrimidineamine | 1.15 g | C(C)OC(=O)C=1C=C(C=CC1)NC1=NC=CC(=N1)C=1C(=NC=CC1)Cl | C18H15ClN4O2
